US06534546B1
To a mixture of 4-nitrophenylacetic acid (2.0 g), benzene (40 ml) and N-bromosuccinimide (3.3 g), 2,2′-azobis(2-methylpropionitrile)(0.16 g) was added and heated under reflux for 22 h. The reaction mixture was diluted with ethyl acetate and washed successively with 2 N HCl and water; the organic layer was dried with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate:acetic acid=75:25:1) to give 2-bromo-2-(4-nitrophenyl)acetic acid. The resulting bromo compound was mixed with 28% aqueous ammonia solution (5 ml) and stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure; to the resulting residue, 1 N aqueous sodium hydroxide solution (20 ml), 1,4-dioxane (10 ml) and di-t-butyl dicarbonate (7.2 g) were added and stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure and the resulting residue was dissolved in a mixture of methanol (20 ml) and diethyl ether (10 ml); a solution of trimethylsilyldiazomethane (2.0 M) in n-hexane was added until the reaction mixture no longer foamed; the reaction mixture was then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=3:1) to give 2-t-butoxycarbonylamino-2-(4-nitrophenyl)acetic acid methyl ester. The resulting methyl ester compound was worked up as in Example 2 to give 0.77 g of the titled compound (yield, 25%).

reactant | 4-nitrophenylacetic acid | 2.0 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
reactant | N-bromosuccinimide | 3.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.16 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-2-(4-nitrophenyl)acetic acid | BrC(C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO4
